*$
* TLV354
*************************************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.                                            
*************************************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensor's and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*************************************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*************************************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: TLV354
* Date: 13FEB2019
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS756 -OCTOBER 2016
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.2
*
*****************************************************************************
*
* Updates:
*
* Final 1.2
* Updated with unique subckt name,Current Noise, Vos drift and edits in claw block
*
*
* Final 1.1
* Release to Web.
*
****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
* 		OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* 		UNITY GAIN BANDWIDTH (GBW)
* 		INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* 		POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* 		DIFFERENTIAL INPUT IMPEDANCE (Zid)
* 		COMMON-MODE INPUT IMPEDANCE (Zic)
* 		OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* 		OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* 		INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* 		INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* 		OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* 		SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* 		QUIESCENT CURRENT (Iq)
* 		SETTLING TIME VS. CAPACITIVE LOAD (ts)
* 		SLEW RATE (SR)
* 		SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* 		LARGE SIGNAL RESPONSE
* 		OVERLOAD RECOVERY TIME (tor)
* 		INPUT BIAS CURRENT (Ib)
* 		INPUT OFFSET CURRENT (Ios)
* 		INPUT OFFSET VOLTAGE (Vos)
* 		INPUT OFFSET VOLTAGE VS. TEMPERATURE (VOS DRIFT)
* 		INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* 		INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* 		INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
******************************************************
.subckt TLV354 IN+ IN- VCC VEE OUT
******************************************************
* MODEL DEFINITIONS:
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e9 Von=100e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=250e-3 Voff=0)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e9 Von=1e-3 Voff=0)
******************************************************
XV_OS VOS N037 VOS_DRIFT_TLV354
R1 N036 CMR R_NOISELESS 1e-3 
R2 FB- VOS- R_NOISELESS 1e-3 
R3 N054 0 R_NOISELESS 1e12 
C1 N054 0 1
R4 VCC_B N053 R_NOISELESS 1e-3 
C2 N053 0 1e-15
C3 N055 0 1e-15
R5 N055 VEE_B R_NOISELESS 1e-3 
G_PSR N036 PSR N010 N009 1e-3
R6 MID N039 R_NOISELESS 1e12 
VCM_MIN N040 VEE_B -0.1
R7 N040 MID R_NOISELESS 1e12 
VCM_MAX N039 VCC_B +0.1
XVCM_CLAMP PSR MID N038 MID N039 N040 VCCS_EXT_LIM_TLV354
R8 N038 MID R_NOISELESS 1 
C4 VCM_CLAMP MID 1e-15
R9 N038 VCM_CLAMP R_NOISELESS 1e-3 
V4 N052 OUT 0
R10 MID N044 R_NOISELESS 1e12 
R11 MID N045 R_NOISELESS 1e12 
XIQp VIMON MID VCC MID VCCS_LIM_IQ_TLV354
XIQn MID VIMON VEE MID VCCS_LIM_IQ_TLV354
R12 VCC_B N013 R_NOISELESS 1e3 
R13 N026 VEE_B R_NOISELESS 1e3 
XCLAWp VIMON MID N013 VCC_B VCCS_LIM_CLAWp_TLV354
XCLAWn MID VIMON VEE_B N026 VCCS_LIM_CLAWn_TLV354
R14 VEE_CLP MID R_NOISELESS 1e3 
R15 MID VCC_CLP R_NOISELESS 1e3 
R16 N014 N013 R_NOISELESS 1e-3 
R17 N027 N026 R_NOISELESS 1e-3 
C5 MID N014 1e-15
C6 N027 MID 1e-15
R18 VOUT_S N045 R_NOISELESS 100 
C7 VOUT_S MID 1e-12
G2 MID VCC_CLP N014 MID 1e-3
G3 MID VEE_CLP N027 MID 1e-3
XCL_AMP N008 N034 VIMON MID N017 N024 CLAMP_AMP_LO_TLV354
V_ISCp N008 MID 150
V_ISCn N034 MID -165
XOL_SENSE_TLV354 MID N057 OLN OLP OL_SENSE_TLV354
R19 N034 MID R_NOISELESS 1e9 
R20 N024 MID R_NOISELESS 1 
C8 N025 MID 1e-15
R21 MID N017 R_NOISELESS 1 
R22 MID N008 R_NOISELESS 1e9 
C9 MID N018 1e-15
XCLAW_AMP VCC_CLP VEE_CLP VOUT_S MID N015 N022 CLAMP_AMP_LO_TLV354
R23 VEE_CLP MID R_NOISELESS 1e9 
R24 N022 MID R_NOISELESS 1 
C10 N023 MID 1e-15
R25 MID N015 R_NOISELESS 1 
R26 MID VCC_CLP R_NOISELESS 1e9 
C11 MID N016 1e-15
XCL_SRC N018 N025 CL_CLAMP MID VCCS_LIM_4_TLV354
XCLAW_SRC N016 N023 CLAW_CLAMP MID VCCS_LIM_3_TLV354
R27 N015 N016 R_NOISELESS 1e-3 
R28 N023 N022 R_NOISELESS 1e-3 
R29 N017 N018 R_NOISELESS 1e-3 
R30 N025 N024 R_NOISELESS 1e-3 
R31 N057 MID R_NOISELESS 1 
R32 N057 SW_OL R_NOISELESS 100 
C12 SW_OL MID 1e-12
R33 VIMON N044 R_NOISELESS 100 
C13 VIMON MID 1e-12
C_DIFF N011 VOS- 2e-12
C_CMn VOS- MID 2e-12
C_CMp MID N011 2e-12
I_Q VCC VEE 5.2e-3
I_B PSR MID 3e-12
I_OS FB- MID 2e-12
R36 N032 MID R_NOISELESS 1 
R37 N035 MID R_NOISELESS 1e9 
R38 MID N020 R_NOISELESS 1 
R39 MID N012 R_NOISELESS 1e9 
XGR_AMP N012 N035 N019 MID N020 N032 CLAMP_AMP_HI_TLV354
XGR_SRC N021 N033 CLAMP MID VCCS_LIM_GR_TLV354
C17 MID N021 1e-15
C18 N033 MID 1e-15
V_GRn N035 MID -120
V_GRp N012 MID 110
R40 N020 N021 R_NOISELESS 1e-3 
R41 N033 N032 R_NOISELESS 1e-3 
R42 VSENSE N019 R_NOISELESS 1e-3 
C19 MID N019 1e-15
R43 MID VSENSE R_NOISELESS 1e3 
G_CMR VOS CMR N007 MID 1e-3
G8 MID CLAW_CLAMP N041 MID 1e-3
R45 MID CLAW_CLAMP R_NOISELESS 1e3 
G9 MID CL_CLAMP CLAW_CLAMP MID 1e-3
R46 MID CL_CLAMP R_NOISELESS 1e3 
R47 N050 VCLP R_NOISELESS 100 
C24 MID VCLP 1e-12
E4 N050 MID CL_CLAMP MID 1
E5 N045 MID OUT MID 1
H1 N044 MID V4 1e3
S1 N043 N042 SW_OL MID OL_SW
R52 MID N011 R_NOISELESS 1T
R53 VOS- MID R_NOISELESS 1T
R_CMR CMR VOS R_NOISELESS 1e3 
R59 N053 N054 R_NOISELESS 1e6 
R60 N054 N055 R_NOISELESS 1e6 
R_PSR PSR N036 R_NOISELESS 1e3 
G15 MID VSENSE CLAMP MID 1e-3
E6 VD2 MID N031 MID 1
V_ORp N031 VCLP 0.65
V_ORn N028 VCLP -0.65
E7 VD1 MID N028 MID 1
V11 N029 VD1 0
V12 N030 VD2 0
H2 OLN MID V11 -1
H3 OLP MID V12 1
S2 VCC IN- IN- VCC ESD_SW
S3 VCC IN+ IN+ VCC ESD_SW
S4 IN- VEE VEE IN- ESD_SW
S5 IN+ VEE VEE IN+ ESD_SW
S6 VCC OUT OUT VCC ESD_SW
S7 OUT VEE VEE OUT ESD_SW
E1 MID 0 N054 0 1
G16 0 VCC_B VCC 0 1
G17 0 VEE_B VEE 0 1
R88 VCC_B 0 R_NOISELESS 1 
R89 VEE_B 0 R_NOISELESS 1 
S8 N030 CLAMP CLAMP N030 OR_SW
S9 CLAMP N029 N029 CLAMP OR_SW
XVCCS_LIM_1_TLV354 VCM_CLAMP FB- MID GAIN_1 VCCS_LIM_1_TLV354
XVCCS_LIM_2_TLV354 GAIN_1 MID MID CLAMP VCCS_LIM_2_TLV354
R44 GAIN_1 MID R_NOISELESS 1e6 
R58 CLAMP MID R_NOISELESS 1e6 
C20 CLAMP MID 6.5e-10
R34 N011 IN+ R_NOISELESS 1e-3 
R35 VOS- IN- R_NOISELESS 1e-3 
R48 MID N041 R_NOISELESS 1e6 
G1 MID N041 VSENSE MID 1e-6
C14 N041 MID 7.23e-16
Xe_n N037 N011 VNSE_TLV354
C22 N002 N001 4.547e-15
G_adjust1 MID N001 N011 MID 3.985e-2
Rsrc1 N001 MID R_NOISELESS 1 
R56 N002 MID R_NOISELESS 2.063e5 
R57 N002 N001 R_NOISELESS 1e8 
Rsrc2 N007 MID R_NOISELESS 1 
G5 MID N007 N002 MID 1
C23 N005 N006 1.36e-14
G_adjust2 MID N006 VCC_B MID 8.834e-1
Rsrc3 N006 MID R_NOISELESS 1 
R61 N005 MID R_NOISELESS 4.256e4 
R62 N005 N006 R_NOISELESS 1e8 
G6 MID N010 N005 MID 1
Rsrc4 N010 MID R_NOISELESS 1 
C25 N004 N003 6.366e-14
R63 N004 MID R_NOISELESS 2.501e4 
R64 N004 N003 R_NOISELESS 1e8 
G7 MID N009 N004 MID 1
Rsrc6 N009 MID R_NOISELESS 1 
G10 MID N003 VEE_B MID 6.64e-1
R65 N003 MID R_NOISELESS 1 
Rx1 N052 N051 R_NOISELESS 6.67e4
Rdummy1 N052 MID R_NOISELESS 6.67e3
G_Zo MID N042 CL_CLAMP N052 89
Rdc N042 MID R_NOISELESS 1
R69 N043 N042 R_NOISELESS 10e3
R70 MID N043 R_NOISELESS 4.65e2
G12 MID N046 N043 MID 22.5
R71 N046 MID R_NOISELESS 1
C28 N043 N042 6e-8
R75 N047 N046 R_NOISELESS 2.3e4
R76 N056 N047 R_NOISELESS 10e3
C29 MID N056 4.823e-14
G14 MID N048 N047 MID 1
R77 N048 MID R_NOISELESS 1
R78 N049 N048 R_NOISELESS 10e3
R79 MID N049 R_NOISELESS 3.311e1
C30 N049 N048 4.823e-14
XU1 N049 MID N051 MID VCVS_LIM_1_TLV354
Xi_np N037 MID FEMT_TLV354
Xi_nn VOS- MID FEMT_TLV354
.ends TLV354
*
.SUBCKT VOS_DRIFT_TLV354 VOS+ VOS-
.PARAM DC = 645e-6
.PARAM POL = 1
.PARAM DRIFT = 4.5E-06
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS
*
.subckt CLAMP_AMP_HI_TLV354 VC+ VC- VIN COM VO+ VO-
.param G=10
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_HI_TLV354
*
.subckt OL_SENSE_TLV354 1   2  3  4
GSW+ 1 2 Value = {IF((V(3,1)>1e-3 | V(4,1)>1e-3),1,0)}
.ends OL_SENSE_TLV354
*
.subckt FEMT_TLV354 1 2
.param NVRF=50
.param RNVF={1.184*PWR(NVRF,2)}
E1 3 0 5 0 10
R1 5 0 {RNVF}
R2 5 0 {RNVF}
G1 1 2 3 0 1e-6
.ends FEMT_TLV354
*
.subckt VCCS_EXT_LIM_TLV354 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param Gain = 1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ends VCCS_EXT_LIM_TLV354
*
.subckt VCCS_LIM_1_TLV354 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-4
.param Ipos = .5
.param Ineg = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_1_TLV354
*
.subckt VCCS_LIM_2_TLV354 VC+ VC- IOUT+ IOUT-
.param Gain = 4.71e-3
.param Ipos = 99.6e-3
.param Ineg = -99.6e-3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_2_TLV354
*
.subckt VCCS_LIM_3_TLV354 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 220e-3
.param Ineg = -240e-3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_3_TLV354
*
.subckt VCCS_LIM_4_TLV354 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 230e-3
.param Ineg = -250e-3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_4_TLV354
*
.subckt VCCS_LIM_CLAWn_TLV354 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 1.0064e-4)
+(10, 1.28e-4)
+(20, 2.16e-4)
+(50, 5.31e-4)
+(90.6, 9.91e-4)
+(120, 1.39e-3)
+(140, 1.7e-3)
+(163.7, 2.16e-3)
.ends VCCS_LIM_CLAWn_TLV354
*
.subckt VCCS_LIM_IQ_TLV354 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,Gain*V(VC+,VC-) )}
.ends VCCS_LIM_IQ_TLV354
*
.subckt VCVS_LIM_1_TLV354 VC+ VC- VOUT+ VOUT-
.param Gain = 3.03e2
.param Vpos = 20.5e3
.param Vneg = -22.5e3
E1 VOUT+ VOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Vneg,Vpos)}
.ends VCVS_LIM_1_TLV354
*
.subckt VNSE_TLV354 1 2
.param FLW=10
.param NLF=605
.param NVR=7.3
.param GLF={PWR(FLW,0.25)*NLF/1164}
.param RNV={1.184*PWR(NVR,2)}
.model DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ends VNSE_TLV354
*
.subckt CLAMP_AMP_LO_TLV354 VC+ VC- VIN COM VO+ VO-
.param G=1
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_LO_TLV354
*
.subckt VCCS_LIM_GR_TLV354 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.25
.param Ineg = -0.25
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_GR_TLV354
*
.subckt VCCS_LIM_CLAWp_TLV354 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 1.0064e-4)
+(9.82, 1.1e-4)
+(20, 2.31e-4)
+(40.51, 4.34e-4)
+(70, 7.51e-4)
+(100, 1.17e-3)
+(120, 1.52e-3)
+(150, 2.11e-3)
.ends VCCS_LIM_CLAWp_TLV354
*
